US05864039
2-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)ethylamine (1 g) was dissolved in methylene chloride (10 ml) and triethylamine (0.86 ml) was added. Then, a solution of acetyl chloride (0.29 ml) in methylene chlride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 1 hr, and the reaction mixture was concentrated under reduced pressure to give 1-(2-acetylaminoethyl)-3-tert-butoxycarbonylaminomethylpyrrolidine.

reactant | 2-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)ethylamine | 1 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCN | C12H25N3O2
reactant | triethylamine | 0.86 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.29 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-acetylaminoethyl)-3-tert-butoxycarbonylaminomethylpyrrolidine | C(C)(=O)NCCN1CC(CC1)CNC(=O)OC(C)(C)C | C14H27N3O3
